US07163951B2
To a solution of 2-({[(1-ammoniocyclopropyl)carbonyl]amino}methyl)-3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]pyridinium dichloride (0.390 g, 0.821 mmol) in 5 mL CH2Cl2 at 0° C. was added triethylamine (0.249 g, 2.46 mmol) and trifluoroacetic anhydride (0.17 g, 0.82 mmol). The solution was diluted with additional CH2Cl2 and washed with aqueous sodium bicarbonate and brine, dried over Na2SO4, filtered and concentrated. The residue was subjected to silica gel chromatography eluted with 0–2% methanol in CH2Cl2 to provide N-({3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]pyridin-2-yl}methyl)-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 498.2 for M+H+: 1H NMR (300 MHz, MeOH-d4) δ 8.13 (d, J=2.0 Hz, 1H), 7.75–7.68 (m, 2H), 7.45–7.39 (m, 2H), 4.58 (s, 2H), 4.35 (s, 3H), 1.56–1.52 (m, 2H), 1.14 (m, 2H).

reactant | 2-({[(1-ammoniocyclopropyl)carbonyl]amino}methyl)-3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]pyridinium dichloride | 0.821 mmol, 0.390 g | [Cl-].[Cl-].[NH3+]C1(CC1)C(=O)NCC1=[NH+]C=C(C=C1Cl)C1=C(C(=CC=C1)F)C=1N=NN(N1)C
reactant | triethylamine | 2.46 mmol, 0.249 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.82 mmol, 0.17 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-({3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]pyridin-2-yl}methyl)-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide | ClC=1C(=NC=C(C1)C1=C(C(=CC=C1)F)C=1N=NN(N1)C)CNC(=O)C1(CC1)NC(C(F)(F)F)=O | C20H16ClF4N7O2
